US07199119B2
To a solution of 4-bromophenol (3.30 g, 20.0 mmol), triphenylphoshine (5.25 g, 20.0 mmol) and N-(2-hydroxyethyl)morpholine (2.51 g, 19.1 mmol) in THF (30 mL) was added diisopropyl azodicarboxylate (3.94 mL, 20.0 mmol) over 10 min. The reaction mixture was stirred at room temperature for 2 h, and then hydrochloric acid (50 mL, 1N) was added. The mixture was extracted with diethyl ether (2×50 mL), and then the pH was adjusted to 10 with 2N aq. NaOH. The mixture was then extracted with ethyl acetate (2×50 mL) and the combined organic layers were dried over MgSO4 and concentrated under reduced pressure to afford N-(4-bromophenoxyethyl)morpholine (4.54 g, 15.9 mmol) as a white solid.

reactant | 4-bromophenol | 20.0 mmol, 3.30 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | triphenylphoshine | 20.0 mmol, 5.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(2-hydroxyethyl)morpholine | 19.1 mmol, 2.51 g | OCCN1CCOCC1 | C6H13NO2
reactant | diisopropyl azodicarboxylate | 20.0 mmol, 3.94 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(4-bromophenoxyethyl)morpholine | 15.9 mmol, 4.54 g | BrC1=CC=C(OCCN2CCOCC2)C=C1 | C12H16BrNO2
